Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Lower Extremity Pain & Erythema 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___ female with past medical history of 
laser therapy for varicose veins 6 months prior, venous stasis 
with ulcers, and depression who presents with right leg 
swelling, warmth and erythema x 1 week. She states that at 
first, her left ankle felt swollen and painful and she presented 
to the ___ ED and was sent home with conservative management. 
She then experienced acute onset of right leg swelling, warmth 
and redness about one week ago. She states that she also had 
associated fevers and chills as if she were coming down with a 
cold. She states that pain is worse with standing and there are 
no reported alleviating factors. During her most recent ED visit 
on the ___, she was started on Keflex without improvement and 
so re-presented today with worsening pain, erythema and edema of 
her right lower extremity. 

 
Past Medical History:
Depression
Varicose veins s/p laser therapy 6 months ago on RLE (two
incision points - one femoral and one near ankle)
Stress Incontinence
Low Vitamin D
Total hysterectomy s/p ruptured ectopic pregnancy. She still has
one tube and one ovary
Cholecystectomy
Breast lift
Venous ulcers/Venous stasis

 
Social History:
___
Family History:
Mother: healthy
Father: died of lung cancer, was ___
Children: 
- sickle cell anemia in daughter
- son had TB, hepatitis C and hepatitis B, endocarditis 
No DMII, HTN HLD that runs in the family 
No cancers that run in the family

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS:98.0 PO 137 / 81 86 16 99RA
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: Patient with 2+ edema on RLE to ___ of the way up 
the calf. +erythema with vague borders, +warmth. LLE with 
erythema and warmth mainly over lower calf with mild warmth and 
1+ edema in lower calf. Some darkening over lateral left foot. 
tender to palpation mostly over right lower extremity>left lower 
extremity
PULSES: 2+ radial, DP pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face 
symmetric
DERM: warm and well perfused, no obvious portal of entry 

DISCHARGE PHYSICAL EXAM:
========================
GENERAL: Well appearing female resting comfortably in bed in no 
acute distress. 
HEENT: PERRLA, EOMI, Moist Mucous membranes. 
NECK: Supple, no LAD, JVP not elevated. 
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: Clear to auscultation bilaterally w/out wheezes or 
crackles. 
GI: Soft, non-tender, non-distended. 
EXTREMITIES: 1+ edema of RLE to ___ of the way up the calf. 
+erythema with vague borders, +warmth but decreased over 
admission. LLE with erythema and warmth mainly over lower calf 
with mild warmth and 1+ edema in lower calf. Some darkening over 
lateral left foot. tender to palpation mostly over right lower 
extremity>left lower extremity
NEURO: A&O x3
Skin: warm and well perfused, no lacerations or lesions. 
 
Pertinent Results:
LAB RESULTS
===========
___ 08:15AM BLOOD WBC-4.7 RBC-4.77 Hgb-10.9* Hct-36.0 
MCV-76* MCH-22.9* MCHC-30.3* RDW-17.0* RDWSD-44.8 Plt ___
___ 02:35AM BLOOD WBC-5.7 RBC-4.84 Hgb-10.9* Hct-35.5 
MCV-73* MCH-22.5* MCHC-30.7* RDW-16.7* RDWSD-42.4 Plt ___
___ 02:35AM BLOOD Neuts-65.3 ___ Monos-9.3 Eos-0.9* 
Baso-0.5 Im ___ AbsNeut-3.72 AbsLymp-1.34 AbsMono-0.53 
AbsEos-0.05 AbsBaso-0.03
___ 08:15AM BLOOD Glucose-79 UreaN-16 Creat-0.9 Na-142 
K-5.0 Cl-104 HCO3-24 AnGap-14
___ 02:35AM BLOOD Glucose-86 UreaN-18 Creat-1.0 Na-141 
K-4.3 Cl-103 HCO3-25 AnGap-13
___ 08:15AM BLOOD Calcium-9.6 Phos-3.8 Mg-2.2

___
======
1. No evidence of deep venous thrombosis in the right lower 
extremity veins. 
2. Mild-to-moderate soft tissue swelling consistent with known 
cellulitis.  1.1 x 1.3 x 0.7 cm area of hypodensity along the 
anteromedial knee likely represents small joint effusion. 
  
CXR
===
The lungs are clear.  Pleural spaces are normal.  
Cardiomediastinal silhouette is within normal limits.  
Incidentally noted is left breast implant. IMPRESSION: No focal 
consolidation. 

 
Brief Hospital Course:
___ yoF with PMHx of varicose veins s/p laser therapy who 
presented with RLE swelling, pain and warmth found to have RLE 
cellulitis. Symptoms started one week prior at which time she 
sought care and was prescribed PO Keflex on ___. However her 
symptoms did not improve and she presented to the ED on ___ at 
which time lower extremity U/S was performed and ruled out a DVT 
but was notable for cellulitic changes. She was admitted to 
medicine on IV Vancomycin on ___. Symptoms improved with no 
increase in redness or swelling and thus she was transitioned to 
PO doxycycline on ___. Although no obvious portal of entry, she 
does have history of venous stasis with ulcers and previous 
laser therapy puts patients at risk for cellulitis.

TRANSITIONAL ISSUES:
===================
- Doxycycline 100mg PO Q12 ___ x 7 day course for non 
purulent cellulitis 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Myrbetriq (mirabegron) 50 mg oral DAILY 
2. Vitamin D 5000 UNIT PO DAILY 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth every 12 
hours Disp #*13 Capsule Refills:*0 
2.  Myrbetriq (mirabegron) 50 mg oral DAILY  
3.  Vitamin D 5000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right lower leg non purulent cellulitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with a cellulitis of your 
right leg.  You first received antibiotics through your IV but 
this was switched to an oral medication after you noted 
improvement.

Please finish your course of antibiotics (doxycycline 1 tab 
100mg every 12 hours) to finish a 7 day total course. 

Please follow up with your primary care physician in ___.  
You need to be seen before your antibiotics finish. 

Please seek care if you develop fevers, shaking chills, or you 
notice your leg redness gets worse or your leg becomes more 
painful.

Please avoid the sun while you are taking the antibiotic and use 
sunscreen!  Please drink a glass of water with the pill. 

We wish you the best,

Your ___ Care Team
 
Followup Instructions:
___